US05545755
7-(1-Hexahydroazepinyl)-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid (L-4, Chart L)
A mixture of 1.56 g 7-(1-Hexahydroazepinyl)-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid methyl ester, 1.57 mL 12N NaOH, 1.57 mL water in 10 mL methanol was refluxed (70°-80° C.) overnight. TLC showed no starting material remaining. The mixture was neutralized with 6N HCl to pH 5-6 and concentrated to dryness using toluene and methanol. A white solid was recovered and used crude.

reactant | 7-(1-Hexahydroazepinyl)-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid methyl ester | 1.56 g | COC(=O)C1=CC=CC=2CCC(CC12)N1CCCCCC1 | C18H25NO2
reactant | NaOH | 12N, 1.57 mL | [OH-].[Na+]
reactant | water | 1.57 mL | O | H2O
reactant | HCl | 6N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 7-(1-Hexahydroazepinyl)-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid | N1(CCCCCC1)C1CCC=2C=CC=C(C2C1)C(=O)O | C17H23NO2
